US05110956
15 g of piperonyl butoxide and 300 ml of concentrated hydrochloric acid were dissolved in 100 ml of benzene and the solution was heated under reflux for 3 h. The reaction mixture was cooled to room temperature and water was added thereto. After extraction with ethyl acetate, the extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure to obtain 12 g of 6-propyl-5-chloromethyl-1,3-benzodioxole in the form of a faint brown oil.

reactant | piperonyl butoxide | 15 g | CCCCOCCOCCOCC=1C=C2C(=CC1CCC)OCO2 | C19H30O5
reactant | hydrochloric acid | 300 ml | Cl | ClH
reactant | water | O | H2O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | 6-propyl-5-chloromethyl-1,3-benzodioxole | 12 g | C(CC)C=1C(=CC2=C(OCO2)C1)CCl | C11H13ClO2
